US06110914
Spiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[3,2-c]pyridine]
The 4'-chlorospiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[3,2-c]pyridine] (125 mg or 5.0 mmol) from Example 33 was dissolved in 50 mL of anhydrous methanol, and 25 mg of 10% palladium on carbon was added. The bottle was placed on the Parr apparatus under hydrogen atmosphere and shaken for 2.5 hours. The Pd/C was removed by filtration and washed with methanol. The solvent was removed in vacuo and the residue was taken up in chloroform and methanol and transferred to a vial. The solvent was removed in vacuo and chased with two portions of ether. After drying with high vacuum obtained 112 mg of off-white powder (104% with residual solvent.) Electrospray MS 217 [MH]+

reactant | 4'-chlorospiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[3,2-c]pyridine] | 5.0 mmol, 125 mg | ClC1=NC=CC2=C1CC1(O2)CN2CCC1CC2 | C13H15ClN2O
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium on carbon | 25 mg | [Pd] | Pd
product | Spiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[3,2-c]pyridine] | 112 mg, 104% | O1C2(CC=3C=NC=CC31)CN3CCC2CC3 | C13H16N2O
